US04104392
To a stirred solution of 1.8 g of methyl 1,2,3,4-tetrahydroisoquinoline-3-carboxylate hydrochloride and 8 ml of triethylamine in 50 ml of chloroform which was cooled in an ice bath, there was carefully added N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl chloride hydrochloride obtained above. The reaction mixture was allowed to stand overnight at room temperature. The reaction mixture was washed twice with 50 ml of saturated sodium chloride solution and evaporated to dryness. The residue was dissolved in water-ethanol and ajusted to pH 12 with 5N NaOH solution at a temperature below 0° C to precipitate a solid. This was collected by filtration to give 3 g of methyl 2-[N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl]-1,2,3,4-tetrahydroisoquinoline-3-carboxylate.

reactant | methyl 1,2,3,4-tetrahydroisoquinoline-3-carboxylate hydrochloride | 1.8 g | Cl.C1NC(CC2=CC=CC=C12)C(=O)OC
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
reactant | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl chloride hydrochloride | N#N.Cl.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-[N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl]-1,2,3,4-tetrahydroisoquinoline-3-carboxylate | 3 g | COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1CC2=CC=CC=C2CC1C(=O)OC | C29H35N5O7S
